US06329392B1
1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(3-trifluoromethyl-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine
Prepare by the method of Example 38.1 using 1-(3,4,5-trimethoxy-benzoyl)-3-[2-[4-[1H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine and 3-trifluormethylbenzyl chloride to give the title compound.

reactant | 1-(3,4,5-trimethoxy-benzoyl)-3-[2-[4-[1H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCC(CC2)C(=O)C2=NC3=C(N2)C=CC=C3)C=C(C1OC)OC | C35H40N4O5
reactant | 3-trifluormethylbenzyl chloride | FC(C=1C=C(CCl)C=CC1)(F)F | C8H6ClF3
product | 1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(3-trifluoromethyl-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCC(CC2)C(=O)C2=NC3=C(N2CC2=CC(=CC=C2)C(F)(F)F)C=CC=C3)C=C(C1OC)OC | C43H45F3N4O5
